2135-11-13 09:19:00 Physician Attending Progress Note
Chief Complaint: sepsis (fever and  tachycardia), coffee ground emesis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31M post liver transplant [**2110**] with cirrhosis, esrd on HD, presents
   with abd pain, fever and tachycardia.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2135-11-12**] 03:16 PM
   CTA/abd-->no PE, ascitis, b pl effusionss
   Paracentesis  in ED--> 10 wbc
   fluid resuscitated with some improvement in tachycardia (150-->120),
   8L NS total
   empiric broad antbx initiated including flagyl given diarrhea
   blood cx now growing GNR
   History obtained from Patient, ho
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-11-13**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (97
   HR: 116 (116 - 143) bpm
   BP: 96/49(59) {88/48(52) - 125/80(99)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 92%
             Total In:
                                                                  8,250 mL
                                                                  1,250 mL
   PO:
                                                                  1,250 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  4,000 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,950 mL
                                                                  1,250 mL
   Respiratory support
   SpO2: 92%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, alert
   Head, Ears, Nose, Throat: No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases),
   tunnel line site NT, nonfluct, surrounding erythema
   Abdominal: Soft, Bowel sounds present, NT, distended with ascitis
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Attentive, Follows simple commands, No asterixis
   Labs / Radiology
   9.5 g/dL
   169 K/uL
   69 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   26 mg/dL
   108 mEq/L
   134 mEq/L
   28.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2135-11-12**]  06:30 PM
                            [**2135-11-13**]  02:17 AM
   WBC
   9.1
   Hct
   32.3
   28.9
   Plt
   169
   Cr
   2.2
   2.2
   Glucose
   108
   69
   Other labs: ALT / AST:[**11-24**], Alk Phos / T Bili:244/1.4,
   Differential-Neuts:83.0 %, Lymph:9.7 %, Mono:2.6 %, Eos:4.5 %, Lactic
   Acid:1.8 mmol/L, Ca++:6.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: lactate 1.8 (3.6)
   Imaging: CT abd--mild jejunal wall thickening
   no CXR
   Microbiology: bl cxs, 5 sets (3 with GNR)
   Peritoneal fluid NGTD
   CMV viral load
   flu swab neg
   Assessment and Plan
   31M post liver transplant [**2110**] with cirrhosis, esrd on HD, presents
   with abd pain, fever and tachycardia.
   Primary issues include:
   # Sepsis presenting with fevers, tachycardia now with GNR bacteremia,
   likely from HD line, given pus at site.  No evidence of abscess seen on
   CT.  Para neg for SBP.  Effusions unlikely source given stable resp
   staus and lung parenchyma.
   --Plan to pull tunnel line.
   --Continue broad antibx vanco/zosyn epnding final cx data.  If no GPs,
   can stop vanco.  If clinical decline would change to meropenem.
   --Pending ID of organism consider TTE to r/o SBE.
   # diarrhea
now resolved.  Continue flagyl pending c diff cx.
   # Effusions:  secondary to low albumin. Monitor resp status given
   aggressive fluid resus on admit, doing well currently on RA
   # ESLD:   tacrolimus level pending
   # ? GIB:  guaiac negative. No evidence of active bleeding.  Hct at
   baseline after fluids.  PPI, Continue to trend.
   # Chronic renal failure  (on T,TH, S HD schedule), renal aware, no
   acute indications for HD.  Plan for line holiday.
   # Tachycardia:  likely due to sepsis (sinus). No  evidence of PE on
   CTA.
   Remainder as per resident note.
   ICU Care
   Nutrition:  renal diet
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2135-11-12**] 03:16 PM
   18 Gauge - [**2135-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now,
   Total time spent: 40 minutes
   Patient is critically ill

2135-11-13 12:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE
 removed and tip cultured
   Heart rate trended down with fluids but did not get lower than 110s
   Blood grew 4/10 bottles GNRs
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-11-13**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 129 (116 - 143) bpm
   BP: 107/62(72) {88/48(52) - 125/80(99)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 95%
             Total In:
                                                                  8,250 mL
                                                                  1,750 mL
   PO:
                                                                  1,250 mL
                                                                    750 mL
   TF:
   IVF:
                                                                  4,000 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                    300 mL
   Urine:
                                                                    300 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,950 mL
                                                                  1,450 mL
   Respiratory support
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   Gen: A/Ox3
   Heart: Tachycardic, No MRG
   Lungs: Decreased breath sounds in the bases, no crackles or rhonchi
   Abd: soft, NT, moderately distended BS+
   Ext: 2+ pitting edema in [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) 6086**]
   Labs / Radiology
   169 K/uL
   9.5 g/dL
   69 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   26 mg/dL
   108 mEq/L
   134 mEq/L
   28.9 %
   9.1 K/uL
        [image002.jpg]
                            [**2135-11-12**]  06:30 PM
                            [**2135-11-13**]  02:17 AM
   WBC
   9.1
   Hct
   32.3
   28.9
   Plt
   169
   Cr
   2.2
   2.2
   Glucose
   108
   69
   Other labs: ALT / AST:[**11-24**], Alk Phos / T Bili:244/1.4,
   Differential-Neuts:83.0 %, Lymph:9.7 %, Mono:2.6 %, Eos:4.5 %, Lactic
   Acid:1.8 mmol/L, Ca++:6.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.9 mg/dL
   A/P
   31 yo M w/ ESRD, ESLD s/p liver transplant p/w
   #  Fevers: Appeared septic on presentation but significantly improved,
   HR down, lactate down. GNRs in blood likely from line, doubt from SBP
   given only 10 WBCs from para. Continue vanc until no gram positives on
   48 hrs cultures.
   - Vanc/piptazo for empiric line sepsis and SBP
   - flu swab.
   - Appreciate liver recs
   - f/u blood cultures
   - f/u peritoneal fluid cultures and cell count.
   - f/u HD line swab
   .
   #Pleural effusions: Appear transudative
   - consider tap if no growth from line
   .
   #Coffee grounds emesis: Hct trended back to baseline.
   - follow stools
   - Q8 Hct
   - PPI [**Hospital1 **]
   .
   #Diarrhea: ? cdiff given recent hospitalization w/ translocation
   causing bacteremia
   - stool for cdiff.
   .
   #ESLD: ? chronic rejection. MELD is fairly low. LFTs at baseline, no
   e/o portal vein thrombosis. No e/o SBP.
   - Appreciate liver recs
   - avoid benzos, opiates
   - lactulose
   .
   #ESRD: [**12-27**] post-infectious glomerulonephritis. Due for dialysis
   yesterday but will hold off given tachycardia and ? line infection.
   Transplant surgery removed tunneled line. Will need a new line in 2
   days
   - f/u line cultures
   - HD dose medications.
   - continue tacrolimus at home dose 0.5mg daily
   - tacrolimus level pending
   .
   #Itching: likely [**12-27**] liver disease w/ high alk phos.
   - Sarna lotion
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots
   # ACCESS: PIV x2
   # CODE: Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: ICU

2135-11-14 07:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Line sepsis
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2135-11-13**] 11:00 AM
   Transplant pulled HD line given suspicion for bacteremia.
   HCT stable.
   Tacro lvl <2.0, liver considering if they should change dose.
   History obtained from Patient
   Allergies:
   History obtained from PatientIbuprofen
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2135-11-13**] 06:34 PM
   Cefipime - [**2135-11-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2135-11-14**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (99
   HR: 120 (113 - 129) bpm
   BP: 127/76(89) {101/52(70) - 136/88(95)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 95%
             Total In:
                                                                  2,600 mL
                                                                    366 mL
   PO:
                                                                  1,230 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,370 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    366 mL
   Respiratory support
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   182 K/uL
   8.7 g/dL
   69 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   26 mg/dL
   108 mEq/L
   134 mEq/L
   27.4 %
   11.4 K/uL
        [image002.jpg]
                            [**2135-11-12**]  06:30 PM
                            [**2135-11-13**]  02:17 AM
                            [**2135-11-13**]  12:40 PM
                            [**2135-11-14**]  06:14 AM
   WBC
   9.1
   11.4
   Hct
   32.3
   28.9
   30.6
   27.4
   Plt
   169
   182
   Cr
   2.2
   2.2
   Glucose
   108
   69
   Other labs: PT / PTT / INR:19.0/40.0/1.7, ALT / AST:[**11-24**], Alk Phos / T
   Bili:244/1.4, Differential-Neuts:83.0 %, Lymph:9.7 %, Mono:2.6 %,
   Eos:4.5 %, Lactic Acid:1.8 mmol/L, Ca++:6.8 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.9 mg/dL
   Microbiology:    [**11-12**]
                                GRAM NEGATIVE ROD(S)
                                |
   AMIKACIN--------------       S
   AMPICILLIN------------       R
   AMPICILLIN/SULBACTAM--       S
   CEFEPIME--------------       S
   CEFTAZIDIME-----------       S
   CEFTRIAXONE-----------       S
   CIPROFLOXACIN---------       S
   GENTAMICIN------------       S
   MEROPENEM-------------       S
   [**2135-11-12**] 1:00 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2135-11-12**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):
   [**2135-11-13**] 10:32 am STOOL     CONSISTENCY: FORMED      Source: Stool.
                               **FINAL REPORT [**2135-11-13**]**
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2135-11-13**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   [**2135-11-13**] 10:37 am CATHETER TIP-IV     Site: CATHETER
         Source: right tunneled HD line.
      WOUND CULTURE (Pending):
   Assessment and Plan
 .H/O ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 IMPAIRED SKIN INTEGRITY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 .H/O ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 .H/O RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC
   KIDNEY DISEASE)
 LIVER FUNCTION ABNORMALITIES
   31 yo M w/ ESRD, ESLD s/p liver transplant p/w
   #  Fevers: Appeared septic on presentation but significantly improved,
   HR down, lactate down. GNRs in blood likely from line, doubt from SBP
   given only 10 WBCs from para. Further cultures negative, no GPCs
   growing.  C.diff negative
   - Can likely narrow to ceftriaxone today, d/c vanc/zosyn/flagyl
   - flu swab. negative
   - Appreciate liver recs
   - f/u blood cultures
   - f/u peritoneal fluid cultures
   - f/u HD line swab and tip cultures
   .
   #Pleural effusions: Appear transudative
   - consider tap if no growth from line
   .
   #Coffee grounds emesis: Hct trended back to baseline.
   - follow stools
   - Q8 Hct
   - PPI [**Hospital1 **]
   .
   #Diarrhea:  C.diff negative,
   - f/u CMV VL
   .
   #ESLD: ? chronic rejection. MELD is fairly low. LFTs at baseline, no
   e/o portal vein thrombosis. No e/o SBP.
   - Appreciate liver recs
   - avoid benzos, opiates
   - lactulose
   .
   #ESRD: [**12-27**] post-infectious glomerulonephritis. Due for dialysis
   yesterday but will hold off given tachycardia and ? line infection.
   Transplant surgery removed tunneled line. Will need a new line in 2
   days
   - f/u line cultures
   - HD dose medications.
   - continue tacrolimus at home dose 0.5mg daily
   - tacrolimus level pending
   .
   #Itching: likely [**12-27**] liver disease w/ high alk phos.
   - Sarna lotion
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, pneumoboots
   # ACCESS: PIV x2
   # CODE: Full
   # CONTACT:  [**Name (NI) **]
   # DISPO: c/o to floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2135-11-12**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2135-11-14 10:33:00 Physician Attending Progress Note
Chief Complaint: Febrile, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35M with ESRD, h/o liver transplant for biliary atresia; admitted with
   gram-negative rod bacteremia.
   24 Hour Events:
   He has remained hemodynamically stable but persistent tachycardia.
   HD line pulled yesterday, notable for purulence around catheter site.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2135-11-14**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2135-11-14**] 09:17 AM
   Other medications:
   Tacrolimus
   Vitamin D
   Calcium Carbonate
   Vancomycin per HD
   Flagyl
   Protonix
   Lidocaine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2135-11-14**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 123 (113 - 126) bpm
   BP: 129/76(90) {104/60(73) - 136/88(95)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 98%
             Total In:
                                                                  2,600 mL
                                                                    613 mL
   PO:
                                                                  1,230 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,370 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                      0 mL
   Urine:
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,100 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   Gen: Awake, alet
   Chest: diminished breath sounds at bilateral bases, dullness to
   percussion
   CV: tachy, regular
   Abd: s/nd/nt
   Ext: 2+ edema
   Labs / Radiology
   8.7 g/dL
   182 K/uL
   85 mg/dL
   2.5 mg/dL
   20 mEq/L
   3.5 mEq/L
   37 mg/dL
   107 mEq/L
   135 mEq/L
   27.4 %
   11.4 K/uL
        [image002.jpg]
                            [**2135-11-12**]  06:30 PM
                            [**2135-11-13**]  02:17 AM
                            [**2135-11-13**]  12:40 PM
                            [**2135-11-14**]  06:14 AM
   WBC
   9.1
   11.4
   Hct
   32.3
   28.9
   30.6
   27.4
   Plt
   169
   182
   Cr
   2.2
   2.2
   2.5
   Glucose
   108
   69
   85
   Other labs: PT / PTT / INR:19.0/40.0/1.7, ALT / AST:[**10-18**], Alk Phos / T
   Bili:196/0.7, Differential-Neuts:83.0 %, Lymph:9.7 %, Mono:2.6 %,
   Eos:4.5 %, Lactic Acid:1.8 mmol/L, Albumin:1.1 g/dL, LDH:212 IU/L,
   Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Microbiology: Blood cultures: gram-negative rods (pan-sensitive), no
   species.
   Peritoneal fluid: no growth
   Catheter tip: no growth
   Assessment and Plan
   35m with ESRD s/p liver transplant for biliary atresia.
   1.       ID/GNR Bacteremia:
   - Currently only source of infection, suspect line infection given
   findings at removal.
   - Tailor antibiotics to: ceftriaxone only given sensitivities
   - CMV viral load
   2.       Chronic renal failure:
   - replace line tomorrow
   - HD holiday currently
   3.       Back pain:  Chronic back pain, on oxycodone.  Abd/chest CT
   without abscess, etc
   - Plan MRI of Thoracic/lumbar spine to exclude epidural abscess.
   - morphine prn
   - continue oxycodone
   4.       Tachycardia: Suspect pain + infection
   - treat back pain as above
   - current antibiotics
   5.       Liver:  s/p liver transplant; LFTs at baseline
   - increased tacrolimus today
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2135-11-12**] 08:00 PM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer: PPI
   VAP:  Not intubated
   Communication:  Patient updated during rounds
   Code status:  Full
   Disposition : Transfer to floor
   Total time spent:  20minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan with the following
   modifications/emphasis:
   35 year old male history of liver transplant with gram negative
   bacteremia which is being attributed to line (pus on removal).  He
   remains persistently tachycardic and with significant back pain.
   T 37.6  P 130  RR 24 Sat: 98%
   Awake, alert
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Back: deep pain
 non-tender to palpation
   RLE: swollen/tender
   A:
   1)       Gram negative Bacteremia
   2)       Back Pain
   3)       Persistent tachycardia
   Plan:
   1)       MRI to rule out epidural abscess given degree of back pain
   plus bacteremia
   2)       Adenosine to help differentiate whether tachycardia is sinus
   or atrial flutter as hard to tell by 12-lead EKG and remains persistent
   Time Spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2135-11-14**] 18:38 ------